US07326786B2
Similar procedure as described in example 31a) was used, starting from 2-fluorophenylglycine, sodium borohydride and iodine to give 2-fluoro-Phenylglycinol. LC-MS m/e 156 (MH+).

reactant | 2-fluorophenylglycine | FC1=C(C=CC=C1)NCC(=O)O | C8H8FNO2
reactant | sodium borohydride | [BH4-].[Na+]
reactant | iodine | II | I2
product | 2-fluoro-Phenylglycinol | FC1=C(C=CC=C1)NCCO | C8H10FNO
